US09079911B2
2-[4,6-Bis(trifluoromethyl)pyrimidin-2-yl]-5-{[2-fluoro-6-(2H-1,2,3-triazol-2-yl)phenyl]carbonyl}octahydropyrrolo[3,4-c]pyrrole
Crude 5-(2-fluoro-6-(2H-1,2,3-triazol-2-yl)benzoyl)hexahydro-pyrrolo[3,4-c]pyrrole-2(1H)-carboximidamide—TFA salt (66 mg) was diluted with n-butanol (4 mL) and treated with sodium methoxide (51.9 mg, 0.961 mmol). The reaction is heated to reflux for 1 hour, then cooled and 1,1,1,5,5,5-hexafluoropentane-2,4-dione (400 mg, 1.92 mmol) is added prior to re-heating the reaction to reflux for 19 hours. The mixture was then cooled and concentrated, then diluted with DCM and saturated sodium bicarbonate. Extract with DCM and concentrate. Reverse phase HPLC gave the title compound (4.6 mg). MS (ESI): mass calculated for C21H16F7N7O, 515.39; m/z found 416.2 [M+H]+. Rotamers observed in 1H NMR.

reactant | 5-(2-fluoro-6-(2H-1,2,3-triazol-2-yl)benzoyl)hexahydro-pyrrolo[3,4-c]pyrrole-2(1H)-carboximidamide—TFA salt | 66 mg | OC(=O)C(F)(F)F.FC1=C(C(=O)N2CC3C(C2)CN(C3)C(N)=N)C(=CC=C1)N1N=CC=N1
reactant | sodium methoxide | 0.961 mmol, 51.9 mg | C[O-].[Na+]
reactant | 1,1,1,5,5,5-hexafluoropentane-2,4-dione | 1.92 mmol, 400 mg | FC(C(CC(C(F)(F)F)=O)=O)(F)F | C5H2F6O2
solvent | n-butanol | 4 mL | C(CCC)O | C4H10O
product | 2-[4,6-Bis(trifluoromethyl)pyrimidin-2-yl]-5-{[2-fluoro-6-(2H-1,2,3-triazol-2-yl)phenyl]carbonyl}octahydropyrrolo[3,4-c]pyrrole | 4.6 mg | FC(C1=NC(=NC(=C1)C(F)(F)F)N1CC2CN(CC2C1)C(=O)C1=C(C=CC=C1N1N=CC=N1)F)(F)F | C21H16F7N7O
